### PR TITLE
`set_nth` lemmas

### PR DESCRIPTION
**Pull request by eupp**
##### Motivation for this change

Added lemmas:
- `set_nthE` --- expresses `set_nth` through `take` and `drop`; 
- `count_set_nth` --- allows to rewrite `count a (set_nth x0 s n x)`

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -1561,6 +1562,42 @@ case: (has_nthP _ _ x0) => [na_s | a_s]; [right=> a_s | left=> i lti].
 by apply/idPn=> na_si; case: a_s; exists i.
 Qed.
 
+Lemma set_nthE s x0 n x : n <= size s ->
+  set_nth x0 s n x = take n s ++ x :: drop n.+1 s.
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:1566]: I would expect a more generic lemma, like
```suggestion
Lemma set_nthE :
  set_nth x0 s n x
  = if n < size s then take n s ++ x :: drop n.+1 s
    else s ++ ncons (n - size s) x0 [:: x].
```
from which the current lemma can be derived.

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -1561,6 +1562,42 @@ case: (has_nthP _ _ x0) => [na_s | a_s]; [right=> a_s | left=> i lti].
...
+- by rewrite ltnSn ltnn subnn.
+rewrite ltnS leq_eqVlt=> /[dup] + -> /=.
+case: (m < n)/idP.
+- by move=> ? /[! nth_take].
+move=> /negP; rewrite -leqNgt leq_eqVlt eq_sym.
+by move=> /[swap] -> /= ?; rewrite subnKC.
+Qed. 
+
+Lemma count_set_nth a s x0 n x : ~~ a x0 ->
+   count a (set_nth x0 s n x) = count a s + a x - a (nth x0 s n).
```
Comment (proux01) [inline mathcomp/ssreflect/seq.v:1583]: Same, there should be a more generic lemma from which this could be derived.

Comment (proux01) [inline mathcomp/ssreflect/seq.v:1583]: Same, there should be a more generic lemma from which this could be derived.

**Comment by proux01** [comment]
Thanks @eupp ! I've made a few additional simplifications / whitespace cleaning.
If you agree and there is no more comment, I'll merge by the end of (next) week.

**Comment by eupp** [comment]
> Thanks @eupp ! I've made a few additional simplifications / whitespace cleaning. If you agree and there is no more comment, I'll merge by the end of (next) week.

@proux01 thank you for cleaning up my proofs!
I have few remarks:

1) If we keep the name `nth_seq1`, should we also rename `nth_nil` to `nth_seq0`?

2) In `count_set_nth_small` is the suffix `_small` is standard naming convention in `ssreflect`?
I can see only one lemma in `seq.v` following this convention: `perm_small_eq`.
At the same time many other similar lemmas use alternative convention with suffix `_leq` (e.g. `has_take_leq`, `in_take_leq`, etc). I personally prefer the latter (with `_leq`), but it's up to maintainers to decide :)

3) I was wondering, should we add more lemmas about `set_nth` that can be deduced from `count_set_nthE`? 
For example, lemmas about `has`, `all`, etc? I didn't need them in my project (from which I ported current lemmas), but they also can be useful. Perhaps we should add them in a follow-up PR?

**Comment by proux01** [comment]
1. No, `_nil` seems to be the usual suffix for `[::]` (`Search "_nil" in seq.` returns results whereas `seq0` doesn't exist) whereas the suffix for lists of length one seems to be `_seq1`.

2. Right, let's go for `_ltn`.

3. I'd say the rules are
   * when adding a lemma, add all lemmas of the same "family" (that's why I complemented `count_set_nthF` with `count_set_nth_ltn`)
   * don't clutter things with lemmas that are too direct combinations of existing lemmas

   So yes a further PR may be worth it.
